US07985753B2
N-[2-(4-Fluoro-phenyl)-ethyl]-acetamide
In close analogy to the procedure described above, 2-(4-fluoro-phenyl)-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-(4-fluoro-phenyl)-ethylamine | FC1=CC=C(C=C1)CCN | C8H10FN
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(4-Fluoro-phenyl)-ethyl]-acetamide | FC1=CC=C(C=C1)CCNC(C)=O | C10H12FNO
